US08357679B2
A: tert-Butyl 4-(4-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)benzyl)piperazine-1-carboxylate
2-(4-(Bromomethyl)phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol (14.83 mmol, 5 g), tert-butyl piperazine-1-carboxylate (14.83 mmol, 2.76 g) and potassium carbonate (44.5 mmol, 6.15 g) were combined and stirred at room temperature overnight in acetonitrile (50 mL). The reaction mixture was filtered and the solvent removed at reduced pressure. The residue was taken up in ethyl acetate and washed with saturated sodium bicarbonate solution. The organic layer was dried over magnesium sulphate and concentrated under vacuum to afford the title compound (7.12 g).

reactant | 2-(4-(Bromomethyl)phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol | 14.83 mmol, 5 g | BrCC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O | C10H7BrF6O
reactant | tert-butyl piperazine-1-carboxylate | 14.83 mmol, 2.76 g | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | potassium carbonate | 44.5 mmol, 6.15 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | tert-Butyl 4-(4-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)benzyl)piperazine-1-carboxylate | 7.12 g | FC(C(C(F)(F)F)(O)C1=CC=C(CN2CCN(CC2)C(=O)OC(C)(C)C)C=C1)(F)F | C19H24F6N2O3
